### PR TITLE
[Merged by Bors] - feat(Computability): rename RecursiveIn to Nat.RecursiveIn and generalize to Primcodable types 

### PR DESCRIPTION
**Pull request by tannerduve**
Rename `RecursiveIn` to `Nat.RecursiveIn` (protected) for the `ℕ →. ℕ` version, and introduce a new `RecursiveIn` that lifts `Nat.RecursiveIn` to partial functions between `Primcodable` types via `liftPrim`.

Also adds:
- `Nat.PrimrecIn`: primitive recursion relative to oracles
- `liftPrim` / `liftPrimrec`: encode typed functions as `ℕ →. ℕ` / `ℕ → ℕ`
- `RecursiveIn₂`, `ComputableIn`, `ComputableIn₂`, `PrimrecIn'`
- Basic API: `of_eq`, `of_eq_tot`, `subst`, `mono`, `partrec_of_zero`, `partrec_of_none`, `partrec_iff_forall_recursiveIn`, etc.

To be merged before #37062

### CODE REVIEW

File: Mathlib/Computability/RecursiveIn.lean [hunk 1]
```diff
@@ -14,60 +14,288 @@ This file defines oracle computability using partial recursive functions.
...
+        Nat.PrimrecIn O g →
+          Nat.PrimrecIn O (unpaired fun z n => n.rec (f z) fun y IH => g <| pair z <| pair y IH)
+
+end Nat
+
+/--
+Encode a partial function between `Primcodable` types as a partial function `ℕ →. ℕ`.
+-/
+def liftPrim {α σ} [Primcodable α] [Primcodable σ] (f : α →. σ) : ℕ →. ℕ :=
+  fun n => Part.bind (decode (α := α) n) fun a => (f a).map encode
```
Comment (eric-wieser) [inline Mathlib/Computability/RecursiveIn.lean]: This should presumably be in the `PFun` namespace?

File: Mathlib/Computability/RecursiveIn.lean [hunk 2]
```diff
@@ -14,60 +14,288 @@ This file defines oracle computability using partial recursive functions.
...
+
+/--
+Encode a total function between `Primcodable` types as a total function `ℕ → ℕ`.
+If decoding fails, the output defaults to `0`.
+-/
+def liftPrimrec {α σ} [Primcodable α] [Primcodable σ] (f : α → σ) : ℕ → ℕ :=
+  fun n => (decode (α := α) n).map (fun a => encode (f a)) |>.getD 0
```
Comment (eric-wieser) [inline Mathlib/Computability/RecursiveIn.lean]: Why is `rec` in this function name??

File: Mathlib/Computability/RecursiveIn.lean [hunk 3]
```diff
@@ -14,60 +14,288 @@ This file defines oracle computability using partial recursive functions.
...
+protected theorem some {O : Set (ℕ →. ℕ)} : Nat.RecursiveIn O Part.some :=
+  of_primrec (O := O) Nat.Primrec.id
+
+theorem none {O : Set (ℕ →. ℕ)} : Nat.RecursiveIn O (fun _ => Part.none) :=
+  (of_primrec (O := O) (Nat.Primrec.const 1)).rfind.of_eq fun _ =>
+    eq_none_iff.2 fun _ ⟨h, _⟩ => by simp at h
+
+end Nat.RecursiveIn
+
+theorem Primrec.to_computableIn {α σ} [Primcodable α] [Primcodable σ]
```
Comment (eric-wieser) [inline Mathlib/Computability/RecursiveIn.lean]:
```suggestion
theorem Primrec.computableIn {α σ} [Primcodable α] [Primcodable σ]
```
etc; we don't usually use `to` prefices on non-typeclass implications.

File: Mathlib/Computability/RecursiveIn.lean [hunk 4]
```diff
@@ -14,60 +14,288 @@ This file defines oracle computability using partial recursive functions.
...
+protected theorem ComputableIn₂.recursiveIn₂ {α β σ} [Primcodable α] [Primcodable β] [Primcodable σ]
+    {f : α → β → σ} {O} (hf : ComputableIn₂ O f) :
+    RecursiveIn₂ O fun a => (f a : β →. σ) := hf
+
+variable [Primcodable α] [Primcodable β] [Primcodable γ] [Primcodable σ]
+
+theorem const_in (O : Set (ℕ →. ℕ)) (s : σ) : ComputableIn O (fun _ : α => s) :=
+  Primrec.to_computableIn (Primrec.const s) O
+
+theorem id_in (O : Set (ℕ →. ℕ)) : ComputableIn O (@id α) :=
```
Comment (eric-wieser) [inline Mathlib/Computability/RecursiveIn.lean]:
```suggestion
theorem ComputableIn.id (O : Set (ℕ →. ℕ)) : ComputableIn O (@id α) :=
```
etc; you might want to just use `namespace ComputableIn` above. Probably these should be `protected` too.

File: Mathlib/Computability/RecursiveIn.lean [hunk 5]
```diff
@@ -14,60 +14,288 @@ This file defines oracle computability using partial recursive functions.
...
+  Primrec.to_computableIn Primrec.id O
```
Comment (eric-wieser) [inline Mathlib/Computability/RecursiveIn.lean]:
```suggestion
  Primrec.id.computableIn O
```
etc

File: Mathlib/Computability/RecursiveIn.lean [hunk 6]
```diff
@@ -14,60 +14,292 @@ This file defines oracle computability using partial recursive functions.
...
+/--
+Encode a total function between `Primcodable` types as a total function `ℕ → ℕ`.
+If decoding fails, the output defaults to `0`.
+-/
+def Function.liftPrim {α σ} [Primcodable α] [Primcodable σ] (f : α → σ) : ℕ → ℕ :=
+  fun n => (decode (α := α) n).map (fun a => encode (f a)) |>.getD 0
+
+/-- Lift `Nat.RecursiveIn` from `ℕ →. ℕ` to partial functions between `Primcodable` types. -/
+def RecursiveIn {α σ} [Primcodable α] [Primcodable σ] (O : Set (ℕ →. ℕ)) (f : α →. σ) : Prop :=
+  Nat.RecursiveIn O (PFun.liftPrim f)
```
Comment (eric-wieser) [inline Mathlib/Computability/RecursiveIn.lean]: I think you need rather a longer docstring here; what does it mean to say that a function from alpha to omega is recursive in oracles from nat to nat? Should the oracles be generalized somehow too? If not, then the docstring would be a good place to note why.

File: Mathlib/Computability/RecursiveIn.lean [hunk 7]
```diff
@@ -14,60 +14,292 @@ This file defines oracle computability using partial recursive functions.
...
-    | pair | comp | prec | rfind =>
-      repeat {constructor; assumption; try assumption}
-  mpr pF := by
-    induction pF with repeat {constructor}
-    | pair _ _ ih₁ ih₂ => exact RecursiveIn.pair ih₁ ih₂
-    | comp _ _ ih₁ ih₂ => exact RecursiveIn.comp ih₁ ih₂
-    | prec _ _ ih₁ ih₂ => exact RecursiveIn.prec ih₁ ih₂
-    | rfind _ ih => exact RecursiveIn.rfind ih
+/-- The primitive recursive functions `ℕ → ℕ`, with respect to an oracle `O`. -/
+protected inductive PrimrecIn (O : Set (ℕ → ℕ)) : (ℕ → ℕ) → Prop
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: I think `Nat.PrimrecIn` and related API should be split into a separate, later PR.

File: Mathlib/Computability/RecursiveIn.lean [hunk 8]
```diff
@@ -14,60 +14,292 @@ This file defines oracle computability using partial recursive functions.
...
+        Nat.PrimrecIn O g →
+          Nat.PrimrecIn O (unpaired fun z n => n.rec (f z) fun y IH => g <| pair z <| pair y IH)
+
+end Nat
+
+/--
+Encode a partial function between `Primcodable` types as a partial function `ℕ →. ℕ`.
+-/
+def PFun.liftPrim {α σ} [Primcodable α] [Primcodable σ] (f : α →. σ) : ℕ →. ℕ :=
+  fun n => Part.bind (decode (α := α) n) fun a => (f a).map encode
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: If you use this definition, it should be put in `Mathlib.Computability.Partrec`, because it uses the same function as in `Partrec`:
```lean4
def Partrec {α σ} [Primcodable α] [Primcodable σ] (f : α →. σ) :=
  Nat.Partrec fun n => Part.bind (decode (α := α) n) fun a => (f a).map encode
```

But it is not easy to redefine `Partrec`. For now in this PR, could you remove this from the PR and define `RecursiveIn` without it?
```lean4
def RecursiveIn {α σ} [Primcodable α] [Primcodable σ] (O : Set (ℕ →. ℕ)) (f : α →. σ) : Prop :=
  Nat.RecursiveIn O fun n => Part.bind (decode (α := α) n) fun a => (f a).map encode
```
And create a PR to redefine `Partrec` and `RecursiveIn` later, when you feel like it.

File: Mathlib/Computability/RecursiveIn.lean [hunk 9]
```diff
@@ -14,60 +14,292 @@ This file defines oracle computability using partial recursive functions.
...
+
+/--
+Encode a total function between `Primcodable` types as a total function `ℕ → ℕ`.
+If decoding fails, the output defaults to `0`.
+-/
+def Function.liftPrim {α σ} [Primcodable α] [Primcodable σ] (f : α → σ) : ℕ → ℕ :=
+  fun n => (decode (α := α) n).map (fun a => encode (f a)) |>.getD 0
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: Same here, but in the first place, this is not the same as the function as in `Primrec`.

When use this in the later PR, its definition should be changed:
```
def Function.liftPrim {α σ} [Primcodable α] [Primcodable σ] (f : α → σ) : ℕ → ℕ :=
  fun n => (decode (α := α) n).map (fun a => encode (f a) + 1) |>.getD 0
```
or
```
def Function.liftPrim {α σ} [Primcodable α] [Primcodable σ] (f : α → σ) : ℕ → ℕ :=
  fun n => encode ((@decode α _ n).map f)
```

File: Mathlib/Computability/RecursiveIn.lean
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean:1]: The lean version in this branch seems outdated, could you merge the master?

**Review by Komyyy — CHANGES_REQUESTED** [review]
Thank you for your contribution! I've finished reviewing the first half.

In #34937, I asked you to "split the PR". This means only creating another smaller PR, but not closing the original PR. This time you don't have to reopen the original PR. For next time, please do not close the original PR, in order not to diversify the review history.

File: Mathlib/Computability/RecursiveIn.lean [hunk 10]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
 
 The type of partial functions recursive in a set of oracles `O` is the smallest type containing
 the constant zero, the successor, left and right projections, each oracle `g ∈ O`,
 and is closed under pairing, composition, primitive recursion, and μ-recursion.
 
+## References
+
+* [Odifreddi1989] Odifreddi, Piergiorgio.
+  *Classical Recursion Theory: The Theory of Functions and Sets of Natural Numbers,
+  Vol. I*. Springer-Verlag, 1989.
```
Comment (eric-wieser) [inline Mathlib/Computability/RecursiveIn.lean]: This is not the preferred reference format; the entire title should be linked. Look at other files for examples.

File: Mathlib/Computability/RecursiveIn.lean (hunk 7 above)
Comment (tannerduve) [reply Mathlib/Computability/RecursiveIn.lean]: Thanks! I've made another PR here: https://github.com/leanprover-community/mathlib4/pull/37111

**Comment by Komyyy** [comment]
@tannerduve 

Sorry for the late review! I've been busy lately.

I will finish reviewing this PR in the next few hours...

File: Mathlib/Computability/RecursiveIn.lean [hunk 11]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
-    | pair _ _ ih₁ ih₂ => exact RecursiveIn.pair ih₁ ih₂
-    | comp _ _ ih₁ ih₂ => exact RecursiveIn.comp ih₁ ih₂
-    | prec _ _ ih₁ ih₂ => exact RecursiveIn.prec ih₁ ih₂
-    | rfind _ ih => exact RecursiveIn.rfind ih
+end Nat
+
+/-- A partial function `f : α →. σ` between `Primcodable` types is recursive in a set of oracles
+`O` if its encoding as a function `ℕ →. ℕ` is `Nat.RecursiveIn O`. -/
+def RecursiveIn {α σ} [Primcodable α] [Primcodable σ] (O : Set (ℕ →. ℕ)) (f : α →. σ) : Prop :=
+  Nat.RecursiveIn O fun n => Part.bind (decode (α := α) n) fun a => (f a).map encode
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean:86]: We want the equivalency lemma:

```lean4
lemma RecursiveIn.iff_nat {f : ℕ →. ℕ} {O} : RecursiveIn O f ↔ Nat.RecursiveIn O f := by
  simp [RecursiveIn, Part.map_id']
```

(The lemma name is inconsistent with [`Partrec.nat_iff`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Computability/Partrec.html#Partrec.nat_iff), but the latter name is clearly not good. This seems to be because `Partrec` was added to Mathlib in a very early season.)

File: Mathlib/Computability/RecursiveIn.lean [hunk 12]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+
+namespace Nat.RecursiveIn
+
+theorem of_eq {f g : ℕ →. ℕ} {O : Set (ℕ →. ℕ)} (hf : Nat.RecursiveIn O f) (H : ∀ n, f n = g n) :
+    Nat.RecursiveIn O g :=
+  (funext H : f = g) ▸ hf
+
+theorem of_eq_tot {f : ℕ →. ℕ} {g : ℕ → ℕ} {O : Set (ℕ →. ℕ)} (hf : Nat.RecursiveIn O f)
+    (H : ∀ n, g n ∈ f n) : Nat.RecursiveIn O g :=
+  of_eq hf fun n => eq_some_iff.2 (H n)
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: We want the `Recursive` versions:
```lean4
namespace RecursiveIn

lemma of_eq [Primcodable α] [Primcodable σ] {f g : α →. σ} {O}
    (hf : RecursiveIn O f) (H : ∀ x, f x = g x) : RecursiveIn O g :=
  (funext H : f = g) ▸ hf

lemma of_eq_tot [Primcodable α] [Primcodable σ] {f : α →. σ} {g : α → σ} {O}
    (hf : RecursiveIn O f) (H : ∀ n, g n ∈ f n) : RecursiveIn O (g : α →. σ) :=
  of_eq hf fun n => eq_some_iff.2 (H n)

end RecursiveIn
```

Also, it seems good to put the `Recursive.iff_nat` here.

File: Mathlib/Computability/RecursiveIn.lean [hunk 13]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+-/
+theorem Computable.computableIn {f : α → β} [Primcodable α] [Primcodable β]
+    (hf : Computable f) : ComputableIn O f :=
+  Nat.Partrec.recursiveIn (by simpa [Computable] using hf)
+
+namespace Nat.RecursiveIn
+
+theorem of_primrec {O : Set (ℕ →. ℕ)} {f : ℕ → ℕ} (hf : Nat.Primrec f) :
+    Nat.RecursiveIn O (fun n => f n) :=
+  Nat.Partrec.recursiveIn (Nat.Partrec.of_primrec hf)
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: Thank you for adjusting the name to `Nat.Partrec.of_primrec`, but as mentioned above, this name is not ideal.

`Nat.Primrec.recursiveIn` would be preferable.

File: Mathlib/Computability/RecursiveIn.lean [hunk 14]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+/-- A total function is computable in `O` if its constant lift is recursive in `O`. -/
+def ComputableIn {α σ} [Primcodable α] [Primcodable σ] (O : Set (ℕ →. ℕ)) (f : α → σ) : Prop :=
+  RecursiveIn O (fun a => Part.some (f a))
+
+/-- A binary total function is computable in `O`. -/
+def ComputableIn₂ {α β σ} [Primcodable α] [Primcodable β] [Primcodable σ]
+    (O : Set (ℕ →. ℕ)) (f : α → β → σ) : Prop :=
+  ComputableIn O (fun p : α × β => f p.1 p.2)
+
+namespace Nat.RecursiveIn
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean:105]: From here on, we could omit the type of `{O : Set (ℕ →. ℕ)}` because it is always infered as `Set (ℕ →. ℕ)`.

File: Mathlib/Computability/RecursiveIn.lean [hunk 15]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+    (H : ∀ n, g n ∈ f n) : Nat.RecursiveIn O g :=
+  of_eq hf fun n => eq_some_iff.2 (H n)
+
+end Nat.RecursiveIn
+
+/--
+If a function is partial recursive, then it is recursive in every partial function.
+-/
+lemma Nat.Partrec.recursiveIn {O : Set (ℕ →. ℕ)} (pF : Nat.Partrec f) :
+    Nat.RecursiveIn O f := by
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: We also want the `Partrec` version:
```lean4
/--
If a function is partial recursive, then it is recursive in every partial function.
-/
lemma Partrec.recursiveIn [Primcodable α] [Primcodable σ] {f : α →. σ} {O}
    (hf : Partrec f) : RecursiveIn O f :=
  Nat.Partrec.recursiveIn hf
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 16]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+  | comp _ _ ih₁ ih₂ => exact .comp ih₁ ih₂
+  | prec _ _ ih₁ ih₂ => exact .prec ih₁ ih₂
+  | rfind _ ih => exact .rfind ih
+
+/--
+If a function is computable, then it is computable in every oracle.
+-/
+theorem Computable.computableIn {f : α → β} [Primcodable α] [Primcodable β]
+    (hf : Computable f) : ComputableIn O f :=
+  Nat.Partrec.recursiveIn (by simpa [Computable] using hf)
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: Golf using `Partrec.recursiveIn` above:
```suggestion
theorem Computable.computableIn [Primcodable α] [Primcodable β] {f : α → β} {O}
    (hf : Computable f) : ComputableIn O f :=
  hf.partrec.recursiveIn
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 17]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+end Nat.RecursiveIn
+
+theorem Primrec.computableIn {α σ} [Primcodable α] [Primcodable σ]
+    {f : α → σ} (hf : Primrec f) (O : Set (ℕ →. ℕ)) :
+    ComputableIn O f := Computable.computableIn (Primrec.to_comp hf)
+
+nonrec theorem Primrec₂.computableIn₂ {α β σ} [Primcodable α] [Primcodable β] [Primcodable σ]
+    {f : α → β → σ} (hf : Primrec₂ f) (O : Set (ℕ →. ℕ)) :
+    ComputableIn₂ O f :=
+  hf.computableIn O
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: The argument `O` is not a main argument of `ComputableIn`, so it is inferred. Additionally, these lemmas are used with dot notation (e.g. `hf.computableIn`), so `O` should be implicit:
```lean4
theorem Primrec.computableIn {α σ} [Primcodable α] [Primcodable σ]
    {f : α → σ} {O} (hf : Primrec f) : ComputableIn O f :=
  (Primrec.to_comp hf).computableIn

nonrec theorem Primrec₂.computableIn₂ {α β σ} [Primcodable α] [Primcodable β] [Primcodable σ]
    {f : α → β → σ} {O} (hf : Primrec₂ f) : ComputableIn₂ O f :=
  hf.computableIn
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 18]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+theorem of_primrec {O : Set (ℕ →. ℕ)} {f : ℕ → ℕ} (hf : Nat.Primrec f) :
+    Nat.RecursiveIn O (fun n => f n) :=
+  Nat.Partrec.recursiveIn (Nat.Partrec.of_primrec hf)
+
+protected theorem some {O : Set (ℕ →. ℕ)} : Nat.RecursiveIn O Part.some :=
+  of_primrec (O := O) Nat.Primrec.id
+
+theorem none {O : Set (ℕ →. ℕ)} : Nat.RecursiveIn O (fun _ => Part.none) :=
+  (of_primrec (O := O) (Nat.Primrec.const 1)).rfind.of_eq fun _ =>
+    eq_none_iff.2 fun _ ⟨h, _⟩ => by simp at h
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: I think we should use `RecursiveIn` instead of `Nat.RecursiveIn` when possible.
`Nat.RecursiveIn` is only for induction-related lemmas.

Also, `RecursiveIn.none` should be protected.

Move these below `variable [Primcodable α] [Primcodable β] [Primcodable γ] [Primcodable σ]`, and change:
```lean4
namespace RecursiveIn

protected theorem some : RecursiveIn O (Part.some : α →. α) :=
  Partrec.some.recursiveIn

protected theorem none : RecursiveIn O (fun _ : α => (Part.none : Part σ)) :=
  Partrec.none.recursiveIn

end RecursiveIn
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 19]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+        (Nat.Partrec.none.of_eq fun _ => rfl))
+    fRecInNone
+
+/--
+A partial function `f` is partial recursive if and only if it is recursive in
+every partial function `g`.
+-/
+theorem partrec_iff_forall_recursiveIn :
+    Nat.Partrec f ↔ ∀ g, Nat.RecursiveIn {g} f :=
+  ⟨fun hf _ ↦ hf.recursiveIn, (· _ |>.partrec_of_zero)⟩
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: 1. As mentioned above, `RecursiveIn` is more preferred.
2. `partrec_iff_forall_recursiveIn_singleton` is better:
```suggestion
/-- A partial function `f` is partial recursive if and only if it is recursive in
every partial function `g`. -/
theorem partrec_iff_forall_recursiveIn_singleton :
    Partrec f ↔ ∀ g, RecursiveIn {g} f :=
  ⟨fun hf _ ↦ hf.recursiveIn, fun hf ↦ (hf (fun _ ↦ .none)).partrec_of_const⟩
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 20]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+
+protected theorem ComputableIn.recursiveIn {α σ} [Primcodable α] [Primcodable σ]
+    {f : α → σ} {O} (hf : ComputableIn O f) :
+    RecursiveIn O (fun a => Part.some (f a)) := hf
+
+protected theorem ComputableIn₂.recursiveIn₂ {α β σ} [Primcodable α] [Primcodable β] [Primcodable σ]
+    {f : α → β → σ} {O} (hf : ComputableIn₂ O f) :
+    RecursiveIn₂ O fun a => (f a : β →. σ) := hf
+
+variable [Primcodable α] [Primcodable β] [Primcodable γ] [Primcodable σ]
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean:182]: We want to use `RecursiveIn`, so we generalize the type of `f`:
```suggestion
variable [Primcodable α] [Primcodable β] [Primcodable γ] [Primcodable σ]
variable {f : α →. σ} {O : Set (ℕ →. ℕ)}
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 21]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+  Primrec.unpair.computableIn O
+
+protected theorem succ (O : Set (ℕ →. ℕ)) : ComputableIn O Nat.succ :=
+  Primrec.succ.computableIn O
+
+protected theorem sumInl (O : Set (ℕ →. ℕ)) : ComputableIn O (@Sum.inl α β) :=
+  Primrec.sumInl.computableIn O
+
+protected theorem sumInr (O : Set (ℕ →. ℕ)) : ComputableIn O (@Sum.inr α β) :=
+  Primrec.sumInr.computableIn O
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: The argument `O` is not a main argument of `ComputableIn`, so `O` should be implicit:
```suggestion
protected theorem const (s : σ) : ComputableIn O (fun _ : α => s) :=
  (Primrec.const s).computableIn

protected theorem id : ComputableIn O (@id α) :=
  Primrec.id.computableIn

protected theorem fst : ComputableIn O (@Prod.fst α β) :=
  Primrec.fst.computableIn

protected theorem snd : ComputableIn O (@Prod.snd α β) :=
  Primrec.snd.computableIn

protected theorem unpair : ComputableIn O Nat.unpair :=
  Primrec.unpair.computableIn

protected theorem succ : ComputableIn O Nat.succ :=
  Primrec.succ.computableIn

protected theorem sumInl : ComputableIn O (@Sum.inl α β) :=
  Primrec.sumInl.computableIn

protected theorem sumInr : ComputableIn O (@Sum.inr α β) :=
  Primrec.sumInr.computableIn
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 22]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+
+end ComputableIn
+
+/--
+If every function in `O` is partial recursive,
+then a function which is `Nat.RecursiveIn O` is also partial recursive.
+-/
+theorem partrec_of_partrec_oracle (h₁ : ∀ g ∈ O, Nat.Partrec g) (h₂ : Nat.RecursiveIn O f) :
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: `Nat.RecursiveIn.partrec_of_oracle`, to enable dot notation:
```lean4
theorem Nat.RecursiveIn.partrec_of_oracle {f : ℕ →. ℕ} {O}
    (h₁ : ∀ g ∈ O, Nat.Partrec g) (h₂ : Nat.RecursiveIn O f) : Nat.Partrec f
```

And the `Recursive` version:
```lean4
/-- If every function in `O` is partial recursive,
then a function which is `RecursiveIn O` is also partial recursive. -/
theorem RecursiveIn.partrec_of_oracle {f : α →. σ}
    (h₁ : ∀ g ∈ O, Partrec g) (h₂ : RecursiveIn O f) : Partrec f :=
  Nat.RecursiveIn.partrec_of_oracle (by simpa only [Partrec.nat_iff] using h₁) h₂
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 23]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+If a function is partial recursive in the constant none function,
+then it is partial recursive.
+-/
+lemma Nat.RecursiveIn.partrec_of_none (fRecInNone : Nat.RecursiveIn {fun _ => Part.none} f) :
+    Nat.Partrec f :=
+  partrec_of_partrec_oracle
+    (fun _ gIn =>
+      (Set.mem_singleton_iff.mp gIn).symm ▸
+        (Nat.Partrec.none.of_eq fun _ => rfl))
+    fRecInNone
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: 1. We want short argument names.
2. As mentioned above, `RecursiveIn` is more preferred.
3. We can generalize this lemma to any partial constant functions:
```suggestion
/-- If a function is recursive in a constant partial function, then it is partial recursive. -/
lemma RecursiveIn.partrec_of_const {s} (hf : RecursiveIn {fun _ => s} f) : Partrec f :=
  hf.partrec_of_oracle
    (fun g hg ↦ by rw [Set.mem_singleton_iff.mp hg]; exact .const' s)
```

File: Mathlib/Computability/RecursiveIn.lean (hunk 19 above)
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: 1. As mentioned above, `RecursiveIn` is more preferred.
2. `partrec_iff_forall_recursiveIn_singleton` is better:
```suggestion
/-- A partial function `f` is partial recursive if and only if it is recursive in
every partial function `g`. -/
theorem partrec_iff_forall_recursiveIn_singleton :
    Partrec f ↔ ∀ g, RecursiveIn {g} f :=
  ⟨fun hf _ ↦ hf.recursiveIn, fun hf ↦ (hf (fun _ ↦ .none)).partrec_of_const⟩
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 24]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+lemma Nat.recursiveIn_empty_iff_partrec :
+    Nat.RecursiveIn {} f ↔ Nat.Partrec f :=
+⟨
+  fun hf =>
+    @partrec_of_partrec_oracle f {}
+      (fun g hg => ((Set.mem_empty_iff_false g).mp hg).elim)
+      hf,
+  fun hf =>
+    @Nat.Partrec.recursiveIn _ {} hf
+⟩
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: 1. As mentioned above, `RecursiveIn` is more preferred.
2. RHS is inferred from LHS, so `partrec` is unnecesarry:
```suggestion
@[simp]
lemma recursiveIn_empty_iff :
    RecursiveIn {} f ↔ Partrec f :=
  ⟨fun hf => hf.partrec_of_oracle (Set.forall_mem_empty.mpr ⟨⟩), fun hf => hf.recursiveIn⟩
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 25]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+theorem subst {O O' : Set (ℕ →. ℕ)} {f : ℕ →. ℕ} (hf : Nat.RecursiveIn O f)
+    (hO : ∀ g, g ∈ O → Nat.RecursiveIn O' g) : Nat.RecursiveIn O' f := by
+  induction hf with
+  | zero | succ | left | right =>
+      constructor
+  | oracle g hg => exact hO g hg
+  | pair _ _ ihf ihg => exact .pair ihf ihg
+  | comp _ _ ihf ihg => exact .comp ihf ihg
+  | prec _ _ ihf ihg => exact .prec ihf ihg
+  | rfind _ ihf => exact .rfind ihf
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]:
```suggestion
/-- If every element of `O` is `Nat.RecursiveIn O'`, then any function which is
`Nat.RecursiveIn O` is also `Nat.RecursiveIn O'`. -/
theorem Nat.RecursiveIn.subst {O O'} {f : ℕ →. ℕ} (hf : Nat.RecursiveIn O f)
    (hO : ∀ g, g ∈ O → Nat.RecursiveIn O' g) : Nat.RecursiveIn O' f := by
  induction hf with
  | zero | succ | left | right => constructor
  | oracle g hg => exact hO g hg
  | pair _ _ ihf ihg => exact .pair ihf ihg
  | comp _ _ ihf ihg => exact .comp ihf ihg
  | prec _ _ ihf ihg => exact .prec ihf ihg
  | rfind _ ihf => exact .rfind ihf

/-- If every element of `O` is `RecursiveIn O'`, then any function which is
`RecursiveIn O` is also `RecursiveIn O'`. -/
theorem RecursiveIn.subst {O O'} {f : α →. σ} (hf : RecursiveIn O f)
    (hO : ∀ g, g ∈ O → RecursiveIn O' g) : RecursiveIn O' f :=
  Nat.RecursiveIn.subst hf (by simpa only [RecursiveIn.iff_nat] using hO)
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 26]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+
+/-- Monotonicity of `Nat.RecursiveIn` with respect to oracle sets. -/
+theorem mono {O₁ O₂ : Set (ℕ →. ℕ)} (hsub : O₁ ⊆ O₂) {g : ℕ →. ℕ} :
+    Nat.RecursiveIn O₁ g → Nat.RecursiveIn O₂ g :=
+    fun gRecInO => .subst (gRecInO) (fun g' g'In => .oracle g' (hsub (g'In)))
+
+end Nat.RecursiveIn
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]:
```lean4
-- put below `RecursiveIn.nat_iff`.
lemma Recursive.oracle {O} : ∀ g ∈ O, RecursiveIn O g := by
  intro g hg; rw [iff_nat]; exact .oracle g hg
```

```suggestion
/-- Monotonicity of `RecursiveIn` with respect to oracle sets. -/
@[gcongr]
theorem RecursiveIn.mono {O₁ O₂} (hsub : O₁ ⊆ O₂) (hf : RecursiveIn O₁ f) : RecursiveIn O₂ f :=
  hf.subst (fun g hg ↦ .oracle g (hsub hg))
```

With `gcongr`, we can solve the following goal using `grw`:
```lean4
example {O₁ O₂ O₃} (hsub : O₂ ⊆ O₃) (hf : RecursiveIn (O₁ ∪ O₂) f) : RecursiveIn (O₁ ∪ O₃) f := by
  grw [hsub] at hf; assumption
```

File: Mathlib/Computability/TuringDegree.lean [hunk 27]
```diff
@@ -47,7 +47,7 @@ variable {f g h : ℕ →. ℕ}
 `f` is Turing reducible to `g` if `f` is partial recursive given access to the oracle `g`
 -/
 abbrev TuringReducible (f g : ℕ →. ℕ) : Prop :=
-  RecursiveIn {g} f
+  Nat.RecursiveIn {g} f
```
Comment (Komyyy) [inline Mathlib/Computability/TuringDegree.lean]: Use generalized `RecursiveIn` here.
```suggestion
  RecursiveIn {g} f
```

File: Mathlib/Computability/TuringDegree.lean
Comment (Komyyy) [inline Mathlib/Computability/TuringDegree.lean]: Not needed anymore.
```lean4
open Primrec Part
```

File: Mathlib/Computability/TuringDegree.lean [hunk 28]
```diff
@@ -65,10 +65,10 @@ If a function is partial recursive, then it is recursive in every partial functi
...
 lemma Nat.Partrec.turingReducible (pF : Nat.Partrec f) : f ≤ᵀ g := by
   induction pF with repeat {constructor}
-  | pair _ _ ih₁ ih₂ => exact RecursiveIn.pair ih₁ ih₂
-  | comp _ _ ih₁ ih₂ => exact RecursiveIn.comp ih₁ ih₂
-  | prec _ _ ih₁ ih₂ => exact RecursiveIn.prec ih₁ ih₂
-  | rfind _ ih => exact RecursiveIn.rfind ih
+  | pair _ _ ih₁ ih₂ => exact Nat.RecursiveIn.pair ih₁ ih₂
+  | comp _ _ ih₁ ih₂ => exact Nat.RecursiveIn.comp ih₁ ih₂
+  | prec _ _ ih₁ ih₂ => exact Nat.RecursiveIn.prec ih₁ ih₂
+  | rfind _ ih => exact Nat.RecursiveIn.rfind ih
```
Comment (Komyyy) [inline Mathlib/Computability/TuringDegree.lean]: Now we can golf many lemmas!
```lean4
/-- If a function is partial recursive, then it is recursive in every partial function. -/
lemma Partrec.turingReducible (pF : Partrec f) : f ≤ᵀ g :=
  pF.recursiveIn
```

File: Mathlib/Computability/TuringDegree.lean
Comment (Komyyy) [inline Mathlib/Computability/TuringDegree.lean]: As `RecursiveIn.partrec_of_const`, we can generalize this to any constant partial functions.
```lean4
/-- If a function is recursive in a constant partial function, then it is partial recursive. -/
lemma TuringReducible.partrec_of_const {s} (hf : f ≤ᵀ fun _ => s) : Partrec f :=
  RecursiveIn.partrec_of_const hf
```

Comment (Komyyy) [inline Mathlib/Computability/TuringDegree.lean]:
```lean4
/-- A partial function `f` is partial recursive if and only if it is recursive in
every partial function `g`. -/
theorem partrec_iff_forall_turingReducible : Partrec f ↔ ∀ g, f ≤ᵀ g :=
  ⟨fun hf _ ↦ hf.turingReducible, fun hf ↦ hf (fun _ ↦ .none) |>.partrec_of_const⟩
```

File: Mathlib/Computability/TuringDegree.lean [hunk 29]
```diff
@@ -92,10 +92,10 @@ protected theorem TuringReducible.rfl : f ≤ᵀ f := .refl _
...
   induction hg with repeat {constructor}
   | oracle _ hg => rw [Set.mem_singleton_iff] at hg; rw [hg]; exact hh
-  | pair _ _ ih₁ ih₂ => exact RecursiveIn.pair ih₁ ih₂
-  | comp _ _ ih₁ ih₂ => exact RecursiveIn.comp ih₁ ih₂
-  | prec _ _ ih₁ ih₂ => exact RecursiveIn.prec ih₁ ih₂
-  | rfind _ ih => exact RecursiveIn.rfind ih
+  | pair _ _ ih₁ ih₂ => exact Nat.RecursiveIn.pair ih₁ ih₂
+  | comp _ _ ih₁ ih₂ => exact Nat.RecursiveIn.comp ih₁ ih₂
+  | prec _ _ ih₁ ih₂ => exact Nat.RecursiveIn.prec ih₁ ih₂
+  | rfind _ ih => exact Nat.RecursiveIn.rfind ih
```
Comment (Komyyy) [inline Mathlib/Computability/TuringDegree.lean]:
```lean4
theorem TuringReducible.trans (hg : f ≤ᵀ g) (hh : g ≤ᵀ h) : f ≤ᵀ h :=
  hg.subst (by simpa using hh)
```

File: Mathlib/Computability/RecursiveIn.lean [hunk 30]
```diff
@@ -14,60 +14,260 @@ This file defines oracle computability using partial recursive functions.
...
+* `ComputableIn O f`: A total function `f : α → σ` is computable given access to oracles in `O`.
+
+## Main results
+
+* `Nat.Partrec.recursiveIn`: Every partial recursive function is recursive in any oracle set.
+* `partrec_iff_forall_recursiveIn`: A function is partial recursive iff it is recursive in every
+  singleton oracle set.
+* `Nat.recursiveIn_empty_iff_partrec`: Being recursive in the empty set is equivalent to being
+  partial recursive.
+* `Nat.RecursiveIn.mono`: Monotonicity of `Nat.RecursiveIn` with respect to oracle sets.
```
Comment (Komyyy) [inline Mathlib/Computability/RecursiveIn.lean]: Also, update the docstrings to use the new lemma names.

```suggestion
* `Nat.Partrec.recursiveIn`: Every partial recursive function is recursive in any oracle set.
* `partrec_iff_forall_recursiveIn_singleton`: A function is partial recursive iff it is recursive in every
  singleton oracle set.
* `recursiveIn_empty_iff`: Being recursive in the empty set is equivalent to being
  partial recursive.
* `RecursiveIn.mono`: Monotonicity of `Nat.RecursiveIn` with respect to oracle sets.
```

**Review by Komyyy — CHANGES_REQUESTED** [review]
Sorry for the wait.

**Review by Komyyy — APPROVED** [review]
Thank you!

maintainer merge
